US07786328B2
A cis/trans mixture of N,N-dimethyl-1-phenylcyclohexane-1,4-diamine (800 mg) was initially introduced into the reaction vessel with 540 μl triethylamine (1.05 molar equivalents) and catalytic amounts of DMAP (approx. 15 mg) in 20 ml methylene chloride, 790 mg (3-chlorophenoxy)acetyl chloride (1.05 molar equivalents) were added dropwise at −20° C. and the mixture was stirred overnight, while warming to room temperature. For working up, the mixture was rendered alkaline (pH>10) with one molar sodium hydroxide solution and extracted with diethyl ether (3×20 ml), the combined extracts were dried over sodium sulfate and filtered and the filtrate was concentrated to dryness. The crude product obtained (1.53 g) was chromatographed on silica gel (3.0×17 cm) with 100 ml diethyl ether followed by 500 ml diethyl ether/methanol (v:v=2:1). 346 mg of the more polar diastereoisomer of 2-(3-chlorophenoxy)-N-(4-dimethylamino-4-phenylcyclohexyl)acetamide were obtained and, as a solution in 5 ml 2-butanone and 5 ml ethyl acetate, were converted into the corresponding hydrochloride by addition of 16 μl water and 110 μl chlorotrimethylsilane (322 mg of a white solid, m.p. 220° C.).

reactant | N,N-dimethyl-1-phenylcyclohexane-1,4-diamine | 800 mg | CN(C1(CCC(CC1)N)C1=CC=CC=C1)C | C14H22N2
reactant | triethylamine | 1.05 molar, 540 μl | C(C)N(CC)CC | C6H15N
reactant | (3-chlorophenoxy)acetyl chloride | 1.05 molar, 790 mg | ClC=1C=C(OCC(=O)Cl)C=CC1 | C8H6Cl2O2
reactant | sodium hydroxide | one molar | [OH-].[Na+]
catalyst | DMAP | approx. 15 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-chlorophenoxy)-N-(4-dimethylamino-4-phenylcyclohexyl)acetamide | ClC=1C=C(OCC(=O)NC2CCC(CC2)(C2=CC=CC=C2)N(C)C)C=CC1 | C22H27ClN2O2
